US07109225B2
g] (S)-4-Benzyl-3-((2S,3R)-3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-3-hydroxy-propionyl)-oxazolidin-2-one
0.234 g of (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one (0.889 mmol) was dissolved under an argon atmosphere in 3 ml of abs. CH2Cl2 and treated with 0.149 ml of triethylamine (1.2 eq.). After cooling to −78°, nBu2BOTf was added slowly (0.980 ml of 1M solution in CH2Cl2) and enolborinate formation allowed to proceed for 15 Min. at −78° and for 50 Min. at 0°. After recooling, a solution of 0.300 g of the above prepared 4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalene-1-carbaldehyde (0.889 mmol) in 5 ml of abs. CH2Cl2 was slowly added via dropping funnel and the mixture kept for 30 Min. at −78° and for additional 30 Min. at 0°. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (silica gel, hexane/AcOEt=1/1) left finally 0.268 g of the title compound as white foam.

reactant | (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one | 0.889 mmol, 0.234 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COCC)=O | C14H17NO4
reactant | triethylamine | 0.149 ml, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | nBu2BOTf | B(CCCC)(CCCC)OS(=O)(=O)C(F)(F)F | C9H18BF3O3S
reactant | 4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalene-1-carbaldehyde | 0.889 mmol | C(C)(C)(C)C=1OC(=C(N1)CCOC1=CC=C(C2=CC=CC=C12)C=O)C | C21H23NO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-4-Benzyl-3-((2S,3R)-3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-3-hydroxy-propionyl)-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C(C)(C)C)OCC)=O | C35H40N2O7
